US04845257
In a solvent mixture of 50 ml water and 35 ml tetrahydrofuran were dissolved 1.64 g of 7β-amino-3-(1-methyl-1H-tetrazol-5-yl)thiomethyl-3-cephem-4-carboxylic acid and 1.68 g of sodium hydrogen carbonate. To this solution was added a solution of 2.1 g 4-bromo-2-methoxyimino-3-oxobutyryl chloride in 15 ml tetrahydrofuran and the mixture was stirred at 20°-25° C. for 5 minutes. Then, a solution of 1.52 g thiourea in 20 ml water was added thereto and the mixture was stirred at the same temperature for 1 hour. The reaction mixture was adjusted to pH 7.0 with 20% aqueous sodium carbonate solution and concentrated under reduced pressure. The concentrate was subjected to column chromatography using Diaion HP-40 (Mitsubishi Chemical Industries, Ltd.) and elution was carried out with 400 ml of water-isopropyl alcohol (9:1, v/v). The eluate was lyophilized to give 2.35 g of sodium 7β-[2-(2-aminothiazol-4-yl)-(Z)-2-methoxyiminoacetamido]-3-(1-methyl-1H-tetrazol-5-yl)thiomethyl-3-cephem-4-carboxylate. Yield 88.2%. Analysis by high-performance liquid chromatography showed that the proportion of the (E)-isomer was not more than 1% of the (Z)-isomer.

reactant | 7β-amino-3-(1-methyl-1H-tetrazol-5-yl)thiomethyl-3-cephem-4-carboxylic acid | 1.64 g | N[C@H]1[C@@H]2N(C(=C(CS2)CSC2=NN=NN2C)C(=O)O)C1=O | C10H12N6O3S2
reactant | sodium hydrogen carbonate | 1.68 g | C(O)([O-])=O.[Na+]
reactant | 4-bromo-2-methoxyimino-3-oxobutyryl chloride | 2.1 g | BrCC(C(C(=O)Cl)=NOC)=O | C5H5BrClNO3
reactant | thiourea | 1.52 g | NC(=S)N | CH4N2S
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
solvent | water | 20 ml | O | H2O
solvent | tetrahydrofuran | 35 ml | O1CCCC1 | C4H8O
solvent | water | 50 ml | O | H2O
product | sodium 7β-[2-(2-aminothiazol-4-yl)-(Z)-2-methoxyiminoacetamido]-3-(1-methyl-1H-tetrazol-5-yl)thiomethyl-3-cephem-4-carboxylate | 2.35 g, Yield 88.2% | NC=1SC=C(N1)/C(/C(=O)N[C@H]1[C@@H]2N(C(=C(CS2)CSC2=NN=NN2C)C(=O)[O-])C1=O)=N/OC.[Na+] | InChI=1S/C16H17N9O5S3.Na/c1-24-16(20-22-23-24)33-4-6-3-31-13-9(12(27)25(13)10(6)14(28)29)19-11(26)8(21-30-2)7-5-32-15(17)18-7;/h5,9,13H,3-4H2,1-2H3,(H2,17,18)(H,19,26)(H,28,29);/q;+1/p-1/b21-8-;/t9-,13-;/m1./s1
